US07115750B1
6-(1-Pyrrolidinylmethyl)-7,8-dihydro-2-naphthalenamine obtained in Reference Example 54 (50 mg, 0.22 mmol) and pyridine (35 mg, 0.44 mmol) were dissolved in tetrahydrofuran (3 ml). Phenyl chlorocarbonate (38 mg, 0.24 mol) was added to the solution under ice-cooling, which was stirred for 10 minutes. The reaction mixture was concentrated, and dimethylsulfoxide (5 ml) was added to the residue. 4-(4-Fluorophenyl)piperidine hydrochloride (57 mg, 0.26 mmol) and 4N aqueous sodium hydroxide solution (0.066 ml, 0.26 mmol) were added to the reaction mixture at room temperature while stirring, which was stirred for 30 minutes. Ethyl acetate and water were added to the mixture, and extraction was conducted. The organic layer was washed with water, and concentrated. Diisopropyl ether was added to the residue. The crystallized product was collected by filtration, washed with diisopropyl ether, to give 4-(4-fluorophenyl)-N-[6-(1-piperidinylmethyl)-7,8-dihydro-2-naphthalenyl]-1-piperidinecarboxamide (48 mg) as a white powder.

reactant | 6-(1-Pyrrolidinylmethyl)-7,8-dihydro-2-naphthalenamine | N1(CCCC1)CC1=CC=2C=CC(=CC2CC1)N | C15H20N2
reactant | pyridine | 0.44 mmol, 35 mg | N1=CC=CC=C1 | C5H5N
reactant | Phenyl chlorocarbonate | 0.24 mol, 38 mg | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | 4-(4-Fluorophenyl)piperidine hydrochloride | 0.26 mmol, 57 mg | Cl.FC1=CC=C(C=C1)C1CCNCC1
reactant | sodium hydroxide | 0.26 mmol, 4N, 0.066 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-fluorophenyl)-N-[6-(1-piperidinylmethyl)-7,8-dihydro-2-naphthalenyl]-1-piperidinecarboxamide | 48 mg | FC1=CC=C(C=C1)C1CCN(CC1)C(=O)NC1=CC=2CCC(=CC2C=C1)CN1CCCCC1 | C28H34FN3O
